US04634704
A mixture of 2.41 parts of 2-bromo-5-methyl-1,3,4-thiadiazole, 5.5 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 1.6 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred and heated overnight at 120° C. The reaction mixture was cooled and poured onto water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.5 parts (35.8%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(5-methyl-1,3,4-thiadiazol-2-yl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 190.6° C. (compound 15).

reactant | 2-bromo-5-methyl-1,3,4-thiadiazole | BrC=1SC(=NN1)C | C3H3BrN2S
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(5-methyl-1,3,4-thiadiazol-2-yl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 35.8% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC(=NN2)C | C24H28FN7S
